US07405300B2
2-Chloro-1-(4-vinylphenyl)-1H-indole-3-carboxaldehyde is reacted with piperazine as described in Step 2 of Example 29 to afford 2-(piperazin-1-yl)-1-(4-vinylphenyl)-1H-indole-3-carboxaldehyde (44% yield) as a yellow solid. ESI/MS 332 (M+H), RT 2.57 min; NMR (CDCl3) 10.29 (1H, s); 8.28 (1H, d, J=6 Hz); 7.62 (2H, d, J=6 Hz); 7.38 (4H, m); 7.00 (1H, d, J=9 Hz); 6.85 (1H, dd); 5.89 (1H, d, J=15 Hz); 5.42 (1H, d, J=18 Hz); 3.38 (4H, m); 2.77 (4H, m).

reactant | 2-Chloro-1-(4-vinylphenyl)-1H-indole-3-carboxaldehyde | ClC=1N(C2=CC=CC=C2C1C=O)C1=CC=C(C=C1)C=C | C17H12ClNO
reactant | piperazine | N1CCNCC1 | C4H10N2
product | 2-(piperazin-1-yl)-1-(4-vinylphenyl)-1H-indole-3-carboxaldehyde | 44% yield | N1(CCNCC1)C=1N(C2=CC=CC=C2C1C=O)C1=CC=C(C=C1)C=C | C21H21N3O
